US06653476B2
1-{[3-Chloro-4-(4-methoxyphenyl)-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione
To dimethyl sulfoxide (2450 ml) was added 28% sodium methoxide (97.4 g), followed by addition of succinimide (178.9 g). The mixture was stirred at about 20° C. for 30 minutes and then 3-chloro-2-chloromethyl-5,8-dihydro-4-(4-methoxyphenyl)-6H-thiopyrano[4′,3′:4,5]thieno-[2,3-b]pyridine (490 g) was added thereto. The mixture was stirred at room temperature for 2.5 hours and then a mixture of methanol (1225 ml) and water (490 g) was added dropwise thereto. The mixture was stirred at 10° C. or lower and crystals deposited were filtered off to the titled compound (546 g, 96. 3%).

reactant | dimethyl sulfoxide | 2450 ml | CS(=O)C | C2H6OS
reactant | sodium methoxide | 97.4 g | C[O-].[Na+]
reactant | succinimide | 178.9 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | 3-chloro-2-chloromethyl-5,8-dihydro-4-(4-methoxyphenyl)-6H-thiopyrano[4′,3′:4,5]thieno-[2,3-b]pyridine | 490 g | ClC=1C(=C2C(=NC1CCl)SC1=C2CCSC1)C1=CC=C(C=C1)OC | C18H15Cl2NOS2
solvent | water | 490 g | O | H2O
solvent | methanol | 1225 ml | CO | CH4O
product | 1-{[3-Chloro-4-(4-methoxyphenyl)-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione | ClC=1C(=C2C(=NC1CN1C(CCC1=O)=O)SC1=C2CCSC1)C1=CC=C(C=C1)OC | C22H19ClN2O3S2
